US05051511
1-Acetyl-2,2,6,6-tetramethyl-4-chlorocarbonyloxypiperidine Hydrochloride
A solution of 19.9 grams (0.1 mol) of 1-acetyl-2,2,6,6-tetramethyl-4-hydroxypiperidine in 150 ml of dry methyl ethyl ketone is added dropwise at 0° C over a 30-minute period to asolution of 28 ml (approximately 0.4 mol) of phosgene in 150 ml of methyl ethyl ketone. The reaction mixture is stirred at 0° C for one hour,then at 20° C. for eighteen hours. Excess dissolved phosgene is flushed out into an absorption trap with a stream of nitrogen. The solid precipitate is removed by filtration, washed twice with methyl ethyl ketone and dried with suction to yield 13.7 grams (52% yield) of the titlecompound which melts at 113-114° C.

reactant | 1-acetyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 0.1 mol, 19.9 grams | C(C)(=O)N1C(CC(CC1(C)C)O)(C)C | C11H21NO2
reactant | phosgene | approximately 0.4 mol, 28 ml | C(=O)(Cl)Cl | CCl2O
solvent | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
product | 1-Acetyl-2,2,6,6-tetramethyl-4-chlorocarbonyloxypiperidine Hydrochloride | 52% yield | Cl.C(C)(=O)N1C(CC(CC1(C)C)OC(=O)Cl)(C)C | InChI=1S/C12H20ClNO3.ClH/c1-8(15)14-11(2,3)6-9(17-10(13)16)7-12(14,4)5;/h9H,6-7H2,1-5H3;1H
